US04980489
Preparation of 2-(1-methylaminododecyl)-3-hydroxy-1,4-naphthoquinone
The yield relative to 2-hydroxy-1,4-naphthoquinone used for the preparation of 2-(1 butylaminododecyl)-3-hydroxy-1,4-naphthoquinone, was 80.1 mol%. Further, the yield relative to the starting material 2-(1-butylaminododecyl)-1,4-naphthoquinone, was 81.7 mmol%.

reactant | 2-hydroxy-1,4-naphthoquinone | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | 2-(1 butylaminododecyl)-3-hydroxy-1,4-naphthoquinone | C(CCC)NC(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C26H39NO3
reactant | 2-(1-butylaminododecyl)-1,4-naphthoquinone | C(CCC)NC(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1)=O)=O | C26H39NO2
product | 2-(1-methylaminododecyl)-3-hydroxy-1,4-naphthoquinone | CNC(CCCCCCCCCCC)C=1C(C2=CC=CC=C2C(C1O)=O)=O | C23H33NO3
